US07166603B2
183F: 6-(2-Azido-ethoxymethyl)-4-(2-chloro-phenyl)-3-(3-methylamino-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester
A solution of racemic 4-(2-azido-ethoxymethyl)-1-[3-(tert-butoxycarbonyl-methyl-amino)-propyl]-6-(2-chloro-phenyl)-2-methoxy-1,6-dihydro-pyrimidine-5-carboxylic acid ethyl ester (200 mg, 0.354 mmol) in CH2Cl2 (3 mL) and trifluoroacetic acid (1.5 mL) was stirred at RT under N2 to remove the BOC protecting group. After 2 h, 1N aqueous HCl (1 mL) and THF (3 mL) was added to the mixture. The mixture was left to stir overnight. The mixture was taken up in EtOAc (50 mL) and basicified with saturated NaHCO3 solution. The organic extract was washed with brine (25 mL), dried (Na2SO4), filtered, concentrated and dried in vacuo 150 mg (93% crude yield) of thick yellowish oil as crude product.

reactant | racemic 4-(2-azido-ethoxymethyl)-1-[3-(tert-butoxycarbonyl-methyl-amino)-propyl]-6-(2-chloro-phenyl)-2-methoxy-1,6-dihydro-pyrimidine-5-carboxylic acid ethyl ester | 0.354 mmol, 200 mg | C(C)OC(=O)C1=C(N=C(N(C1C1=C(C=CC=C1)Cl)CCCN(C)C(=O)OC(C)(C)C)OC)COCCN=[N+]=[N-] | C26H37ClN6O6
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(2-Azido-ethoxymethyl)-4-(2-chloro-phenyl)-3-(3-methylamino-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C(NC1COCCN=[N+]=[N-])=O)CCCNC)C1=C(C=CC=C1)Cl | C20H27ClN6O4
